US06916819B2
The crude 5-nitro-2-trifluoromethyl-pyridin-4-ol (3.4 g, 16.3 mmmol) was treated with PCl5 (5.2 g, 24.97 mmol) and POCl3 (7 mL, 24.49 mmol). The resulting mixture is heated at 80° C. for 18 h, cooled and poured into ice-cold water, and extracted with CH2Cl2. The combined organic phase is washed successively with saturated aqueous NaHCO3, water, brine, dried over Na2SO4, and concentrated in vacuo to afford 4-Chloro-5-nitro-2-trifluoromethyl-pyridine as an yellow oil. 1H NMR (300 MHz, CDCl3): δ 9.17 (s, 1H), 7.9 (s, 1H).

reactant | 5-nitro-2-trifluoromethyl-pyridin-4-ol | 3.4 g | [N+](=O)([O-])C=1C(=CC(=NC1)C(F)(F)F)O | C6H3F3N2O3
reactant | PCl5 | 24.97 mmol, 5.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | POCl3 | 24.49 mmol, 7 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-nitro-2-trifluoromethyl-pyridine | ClC1=CC(=NC=C1[N+](=O)[O-])C(F)(F)F | C6H2ClF3N2O2
